US08252795B2
2-Bromo-1-fluoro-4-nitrobenzene (1.0 g, 4.5 mmol), 2-morpholinoethanamine (0.77 g, 5.9 mmol) and potassium carbonate (1.571 g, 11.4 mmol) in DMSO (5 mL) were stirred at room temperature for 1.5 hours. The mixture was triturated with water, and 2-bromo-N-(2-morpholinoethyl)-4-nitroaniline (1.1 g, 72.8% yield) was collected via filtration. HPLC: Rt=0.61 min. (PHENOMENEX® Luna 5 micron C18 4.6×30 mm, 10-90% aqueous methanol containing 0.1% TFA, 2 min. gradient, flow rate=5 mL/min., detection at 254 nm). MS (ES): m/z=332.06 [M+H]+.

reactant | 2-Bromo-1-fluoro-4-nitrobenzene | 4.5 mmol, 1.0 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | 2-morpholinoethanamine | 5.9 mmol, 0.77 g | O1CCN(CC1)CCN | C6H14N2O
reactant | potassium carbonate | 11.4 mmol, 1.571 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-bromo-N-(2-morpholinoethyl)-4-nitroaniline | 1.1 g, 72.8% yield | BrC1=C(NCCN2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C12H16BrN3O3
